US05719152
8) (S)-9-Bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(4-ethoxycarbonylbutyl)phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 18-6) was performed with 2-(4-ethoxycarbonylbutyl)-4-tert-butoxycarbonylaminomethylaniline (256 mg, 0.73 mmol) and (S)-9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (297 mg, 0.88 mmol) to give 365 mg of the title compound after silica gel column chromatography with 0.3% acetic acid/ethyl acetate (74%).

reactant | 2-(4-ethoxycarbonylbutyl)-4-tert-butoxycarbonylaminomethylaniline | 0.73 mmol, 256 mg | C(C)OC(=O)CCCCC1=C(N)C=CC(=C1)CNC(=O)OC(C)(C)C | C19H30N2O4
reactant | (S)-9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.88 mmol, 297 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(=O)O | C13H11BrN2O4
solvent | acetic acid ethyl acetate | C(C)(=O)O.C(C)(=O)OCC
product | (S)-9-Bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(4-ethoxycarbonylbutyl)phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 365 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)CCCCC(=O)OCC)=O | C32H39BrN4O7
